US04695571
N-(4-Chlorophenyl)-5-ethyl-6-oxo-2,3,6,7-tetrahydro-furo[2,3-f]indole-7-carboxamide (2, R1 =C2H5, R2 =4-chlorophenyl, R3 and R4 =H and n=1)
To a slurry of 18 mg. (0.803 mmole) of sodium hydride in 740 ul. of dimethylformamide cooled to -10° C. was added 150 mg. (0.739 mmole) of 5-ethyl-6-oxo-2,3,6,7-tetrahydro-furo[2,3-f]indole. After the evolution of gas ceased, 125 mg. (0.813 mmole) of 4-chlorophenylisocyanate was added and the reaction mixture allowed to warm to 25° C. and stir for 16 hours. The reaction mixture was poured into a saturated solution of sodium chloride--1N hydrochloric acid and extracted with ethyl acetate. The extract was dried over magnesium sulfate and concentrated to dryness in vacuo. The residue was purified by chromatographing on 20 g. of silica gel using ethyl acetate-hexane (1:2, v:v) as the eluant. The final product was recrystallized from diethyl etherdichloromethane, 15 mg. (6% yield), m.p. 175°-176° C.

reactant | sodium hydride | 0.803 mmole | [H-].[Na+]
reactant | 5-ethyl-6-oxo-2,3,6,7-tetrahydro-furo[2,3-f]indole | 0.739 mmole | C(C)N1C(CC=2C=C3C(=CC12)CCO3)=O | C12H13NO2
reactant | 4-chlorophenylisocyanate | 0.813 mmole | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | sodium chloride | -1N | [Cl-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-(4-Chlorophenyl)-5-ethyl-6-oxo-2,3,6,7-tetrahydro-furo[2,3-f]indole-7-carboxamide | 6% yield | ClC1=CC=C(C=C1)NC(=O)C1C(N(C=2C=C3C(=CC12)OCC3)CC)=O | C19H17ClN2O3
